US06759554B2
5-(N-(4-Methoxybenzyl))aminopyrimidine (FIG. 11, Entry 8)
Using the general procedure, 5-bromopyrimidine (159 mg, 1.0 mmol) was coupled with 4-methoxybenzylamine (196 μL, 1.5 mmol) at 90° C. for 22 h. Purification of the crude product by column chromatography on silica gel using dichloromethane (saturated with ammonia)/ethyl acetate (1:1) as eluent afforded the desired product as a white solid (183 mg, 85% yield). Rf=0.2 (dichloromethane (saturated with ammonia)/ethyl acetate=1:1).

reactant | 5-bromopyrimidine | 1.0 mmol, 159 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 4-methoxybenzylamine | 1.5 mmol, 196 μL | COC1=CC=C(CN)C=C1 | C8H11NO
product | 5-(N-(4-Methoxybenzyl))aminopyrimidine | 183 mg, 85% yield | COC1=CC=C(CNC=2C=NC=NC2)C=C1 | C12H13N3O
